US07465795B2
4-amino-N-cyclopropyl-7-fluoro-8-(2-fluoro-6-methoxyphenyl)cinnoline-3-carboxamide
Using Method G, 4-amino-7-fluoro-8-iodo-N-cyclopropyl-cinnoline-3-carboxamide (372 mg, 1.00 mmol) and 2-fluoro-6-methoxyphenylboronic acid (1.40 g, 8.24 mmol) were reacted. After purification the title compound (117 mg, 33% yield) was obtained as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.50 (bm, 1H), 7.94 (dd, J=5.2, 9.2 Hz, 1H), 7.53 (a t, J=8.7 Hz, 1H), 7.40 (apparent q, J=7.8 Hz, 1H), 6.86 (m, 2H), 3.72 (s, 3H), 2.96 (m, 1H), 0.88 (m, 2H), 0.62 (m, 2H). MS APCI, m/z=371.

reactant | 4-amino-7-fluoro-8-iodo-N-cyclopropyl-cinnoline-3-carboxamide | 1.00 mmol, 372 mg | NC1=C(N=NC2=C(C(=CC=C12)F)I)C(=O)NC1CC1 | C12H10FIN4O
reactant | 2-fluoro-6-methoxyphenylboronic acid | 8.24 mmol, 1.40 g | FC1=C(C(=CC=C1)OC)B(O)O | C7H8BFO3
product | 4-amino-N-cyclopropyl-7-fluoro-8-(2-fluoro-6-methoxyphenyl)cinnoline-3-carboxamide | 117 mg, 33% yield | NC1=C(N=NC2=C(C(=CC=C12)F)C1=C(C=CC=C1OC)F)C(=O)NC1CC1 | C19H16F2N4O2
